US03931268
15.8 g. of 4-[(2-methyl-1,2-dicarbobenzoxy-hydrazino)methyl]-benzoyl chloride were dissolved in 50 ml. of dry ether and, wherein 30 minutes within stirring, added dropwise to a solution of 3.3 g. of 2-amino-2-methyl-1-propanol and 3.6 g. of anhydrous sodium carbonate in 50 ml. of water. The solution was stirred overnight at 0°, the mixture diluted with 100 ml. of water and extracted 3 times with 100 ml. of methylene chloride each time. The united methylene chloride extracts were freed off the solvent in vacuo and the residue dissolved in 200 ml. of methanol, whereupon it was hydrogenated in the presence of 2 g. of 5% palladium-carbon. The colorless glacial material was transformed according to Example 20 into its oxalic acid salt. The crystalline crude material was recrystallized from methanol/acetonitrile, yielding 4-[(2-methyl-hydrazino)-methyl]-benzoic acid (1,1-dimethyl-2-hydroxy-ethyl)-amide oxalate as colorless platelets melting at 160°-162° (dec.).

reactant | 4-[(2-methyl-1,2-dicarbobenzoxy-hydrazino)methyl]-benzoyl chloride | CN(N(C(=O)OCC1=CC=CC=C1)CC1=CC=C(C(=O)Cl)C=C1)C(=O)OCC1=CC=CC=C1 | C25H23ClN2O5
reactant | ether | CCOCC | C4H10O
reactant | 2-amino-2-methyl-1-propanol | NC(CO)(C)C | C4H11NO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 4-[(2-methyl-hydrazino)-methyl]-benzoic acid (1,1-dimethyl-2-hydroxy-ethyl)-amide oxalate | C(C(=O)O)(=O)O.CC(CO)(C)NC(C1=CC=C(C=C1)CNNC)=O | InChI=1S/C13H21N3O2.C2H2O4/c1-13(2,9-17)16-12(18)11-6-4-10(5-7-11)8-15-14-3;3-1(4)2(5)6/h4-7,14-15,17H,8-9H2,1-3H3,(H,16,18);(H,3,4)(H,5,6)
